US04958028
The 5-cyclohexylmethylene-3-(2-fluorophenyl)imidazolidine-2,4-dione (2.25 g, 7.81 mmol), cesium carbonate (2.6 g, 8.0 mmol) and methyl iodide (1.66 g, 11.7 mmol) were stirred overnight in DMF (25 mL). The solution was diluted with water and extracted with ethyl acetate (3×). The combined extracts were washed with brine (saturated, 2×). dried (over MgSO4), filtered and concentrated. Purification by column chromatography afforded 1.9 grams of 5-cyclohexylmethylene-3-(2-fluorophenyl)-1-methylimidazolidine-2,4dione, a white solid, m.p. 131°-137° C.

reactant | 5-cyclohexylmethylene-3-(2-fluorophenyl)imidazolidine-2,4-dione | 7.81 mmol, 2.25 g | C1(CCCCC1)C=C1C(N(C(N1)=O)C1=C(C=CC=C1)F)=O | C16H17FN2O2
reactant | cesium carbonate | 8.0 mmol, 2.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 11.7 mmol, 1.66 g | CI | CH3I
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-cyclohexylmethylene-3-(2-fluorophenyl)-1-methylimidazolidine-2,4dione | 1.9 grams | C1(CCCCC1)C=C1C(N(C(N1C)=O)C1=C(C=CC=C1)F)=O | C17H19FN2O2
